US07482354B2
Ethyl 8-methoxy-1-methyl-4,5-dihydro-1H-pyrazolo[4,3-h]quinazoline-3-carboxylate [B67-X03-M00(C01)-D01]
2.0 g (7.2 mmol) of ethyl 6-[(dimethylamino)methylene]-1-methyl-7-oxo-4,5,6,7-tetrahydro-1H-indazole-3-carboxylate were dissolved in 200 mL of acetonitrile and 17.4 g (70.6 mmol) of methylisourea sulfate and 10.0 g (72.4 mmol) of potassium carbonate were added. The reaction mixture was stirred at reflux for 16 hours. The solvent was then evaporated, the residue redissolved with dichloromethane and washed with water. The organic layer was dried over anhydrous Na2SO4 and concentrated. After a chromatography on a silica gel column (eluant dichloromethane) 1.7 g of product were obtained (86% yield).

reactant | ethyl 6-[(dimethylamino)methylene]-1-methyl-7-oxo-4,5,6,7-tetrahydro-1H-indazole-3-carboxylate | 7.2 mmol, 2.0 g | CN(C)C=C1CCC=2C(=NN(C2C1=O)C)C(=O)OCC | C14H19N3O3
reactant | methylisourea sulfate | 70.6 mmol, 17.4 g | S(=O)(=O)(O)O.CNC(O)=N
reactant | potassium carbonate | 72.4 mmol, 10.0 g | C([O-])([O-])=O.[K+].[K+]
solvent | acetonitrile | 200 mL | C(C)#N | C2H3N
product | Ethyl 8-methoxy-1-methyl-4,5-dihydro-1H-pyrazolo[4,3-h]quinazoline-3-carboxylate | 1.7 g, 86% yield | COC1=NC=2C3=C(CCC2C=N1)C(=NN3C)C(=O)OCC | C14H16N4O3
